US06147090
cis-(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid methyl ester.
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester. (Example 56) (2.8 g, 4.3 mmol), ethanol (50 mL), and 10% palladium on carbon (280 mg) were combined in a Parr bottle and agitated under 50 psi of hydrogen gas on a Parr shaker for 0.5 h. The mixture was then filtered through a bed of Celite®, eluting with ethyl acetate, and the filtrate concentrated in vacuo. The residue was purified by silica gel chromatography using 5% ethyl acetate/hexanes as eluent to afford 2.0 g of the title product (90%): MS m/z 516 (M+ +2); 1H NMR (CDCl3) δ 1.18 (C2-Me, d, 3H, J=5.8 Hz), 6.50 (C8, d, 1H, J=8.3 Hz), 7.21 (C7, d, 1H, J=8.5).

reactant | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C30H25F9N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 280 mg | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | cis-(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid methyl ester | 2.0 g, 90% | COC(N([C@@H]1C[C@@H](NC2=CC=C(C=C12)C(F)(F)F)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C22H19F9N2O2
